US05082856
To a tetrahydrofuran suspension (200 ml) of 32 g (62.7 mmol) of dodecyltriphenylphosphonium bromide was added dropwise 40 ml of a ca. 15% solution of n-butyllithium in hexane under ice-cooling. After stirring the reaction mixture for 30 minutes, the temperature was dropped to -78° C. A tetrahydrofuran solution (100 ml) of 4.8 g (31.4 mmol) of methyl 4-formylpyrrole-2-carboxylate was then added dropwise. After stirring for 1 hour, 190 ml of ethanol was further added thereto dropwise. The reaction mixture was stirred for 1.5 hour at -78° C., and for another 12 hours while the temperature was gradually raised to room temperature. The resulting mixture was diluted with water, extracted with ethyl acetate, washed with aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After removing he solvent under reduced pressure, the residue was purified by subjecting it to column chromatography (eluent: ethyl acetate/hexane=1/10) and by recrystallizing twice from hexane to obtain 1.30 g (14% yield) of methyl 4-(1-trans-tridecenyl)pyrrole-2-carboxylate, m.p. 65°-67° C.

reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | dodecyltriphenylphosphonium bromide | 62.7 mmol, 32 g | [Br-].C(CCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | C(CCC)[Li]
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | methyl 4-formylpyrrole-2-carboxylate | 31.4 mmol, 4.8 g | C(=O)C=1C=C(NC1)C(=O)OC | C7H7NO3
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | ethanol | 190 ml | C(C)O | C2H6O
product | methyl 4-(1-trans-tridecenyl)pyrrole-2-carboxylate | 1.30 g, 14% yield | C(=C\CCCCCCCCCCC)/C=1C=C(NC1)C(=O)OC | C19H31NO2
